US06414148B1
Diethyl azodicarboxylate (325 μl, 2 mmol) was added dropwise to a mixture of (E)-4-morpholinobut-2-en-1-ol (151 mg, 0.96 mmol), (J. Med. Chem. 1972, 15, 110-112), 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (220 mg, 0.688 mol), (prepared as described for the starting material in Example 2), and triphenylphosphine (541 mg, 2 mmol) in methylene chloride (4 ml). The mixture was stirred for 30 minutes at ambient temperature, and further (E)-4-morpholinobut-2-en-1-ol (10 mg, 0.06 mmol), triphenylphosphine (36 mg, 0.137 mol) and diethyl azodicarboxylate (22 μl, 0.14 mmol) were added. The mixture was stirred for 20 minutes and the volatiles were removed by evaporation. The residue was purified by column chromatography on silica eluting with methylene chloride/methanol (92/8). The purified solid was dissolved in methylene chloride and 2M ethereal hydrogen chloride (3 ml) was added. The volatiles were removed by evaporation and the solid was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give (E)-4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(4-morpholinobut-2-en-1-yloxy)quinazoline hydrochloride (165 mg, 45%).

reactant | Diethyl azodicarboxylate | 2 mmol, 325 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (E)-4-morpholinobut-2-en-1-ol | 0.96 mmol, 151 mg | O1CCN(CC1)C/C=C/CO | C8H15NO2
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.688 mol, 220 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | triphenylphosphine | 2 mmol, 541 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E)-4-morpholinobut-2-en-1-ol | 0.06 mmol, 10 mg | O1CCN(CC1)C/C=C/CO | C8H15NO2
reactant | triphenylphosphine | 0.137 mol, 36 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.14 mmol, 22 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (E)-4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(4-morpholinobut-2-en-1-yloxy)quinazoline hydrochloride | 165 mg, 45% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC\C=C\CN2CCOCC2)C=C1)F | InChI=1S/C23H24ClFN4O3.ClH/c1-30-21-13-17-20(14-22(21)32-9-3-2-6-29-7-10-31-11-8-29)26-15-27-23(17)28-19-5-4-16(24)12-18(19)25;/h2-5,12-15H,6-11H2,1H3,(H,26,27,28);1H/b3-2+;
